* Extracted by KLayout with SG13G2 LVS runset on : 04/08/2026 18:23

.SUBCKT sg13g2_hv_or4_1 A B C D VDD VSS X
M$1 VSS D \$4 VSS sg13_hv_nmos L=0.45u W=0.55u AS=0.187p AD=0.1045p PS=1.78u
+ PD=0.93u rfmode=0
M$2 VSS C \$4 VSS sg13_hv_nmos L=0.45u W=0.55u AS=0.16755p AD=0.1045p PS=1.165u
+ PD=0.93u rfmode=0
M$3 VSS B \$4 VSS sg13_hv_nmos L=0.45u W=0.55u AS=0.16755p AD=0.1045p PS=1.165u
+ PD=0.93u rfmode=0
M$4 VSS A \$4 VSS sg13_hv_nmos L=0.45u W=0.55u AS=0.14135p AD=0.1045p PS=1.14u
+ PD=0.93u rfmode=0
M$5 VSS \$4 X VSS sg13_hv_nmos L=0.45u W=0.74u AS=0.14135p AD=0.2516p PS=1.14u
+ PD=2.16u rfmode=0
M$6 \$4 D \$9 VDD sg13_hv_pmos L=0.45u W=2.4u AS=0.816p AD=0.456p PS=5.48u
+ PD=2.78u rfmode=0
M$7 \$9 C \$10 VDD sg13_hv_pmos L=0.45u W=2.4u AS=0.456p AD=0.702p PS=2.78u
+ PD=2.985u rfmode=0
M$8 \$10 B \$11 VDD sg13_hv_pmos L=0.45u W=2.4u AS=0.702p AD=0.456p PS=2.985u
+ PD=2.78u rfmode=0
M$9 VDD A \$11 VDD sg13_hv_pmos L=0.45u W=2.4u AS=0.5148p AD=0.456p PS=3.09u
+ PD=2.78u rfmode=0
M$10 VDD \$4 X VDD sg13_hv_pmos L=0.45u W=2.69u AS=0.5148p AD=0.9146p PS=3.09u
+ PD=6.06u rfmode=0
.ENDS sg13g2_hv_or4_1
